US04057537
[Curing a 75/25, L-(-)-Lactide/Epsilon Caprolactone Copolymer]
110 Grams of a copolymer prepared from 75 parts by weight of L-(-)-lactide and 25 parts by weight of epsilon caprolactone according to the procedure of Example II is blended with 8 grams of dibenzoyl peroxide according to the procedure of Example VIII. The cured copolymer thus obtained is easily molded into colorless, transparent thermosets which are insoluble in benzene. The tensile strength of the cured copolymer is 1560 psi; the total elongation is 450 percent; the initial elastic modulus is 658; and the rebound value (ASTM-D-2632) is 13 percent.

reactant | L-(-)-lactide | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | epsilon caprolactone | C1(CCCCCO1)=O | C6H10O2
reactant | dibenzoyl peroxide | 8 grams | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | benzene | C1=CC=CC=C1 | C6H6
product | L-(-)-Lactide Epsilon Caprolactone | C[C@H]1C(=O)O[C@H](C(=O)O1)C.C1(CCCCCO1)=O | InChI=1S/C6H8O4.C6H10O2/c1-3-5(7)10-4(2)6(8)9-3;7-6-4-2-1-3-5-8-6/h3-4H,1-2H3;1-5H2/t3-,4-;/m0./s1
